data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O:2]=[S:5](=[O:3])([C:7]([F:34])([F:35])[F:36])[c:28]1[cH:17][c:6]2[n+:13]([O-:4])[o:33][n:15][c:38]2[c:26]([N+:16]([O-:14])=[O:18])[cH:32]1.[cH:1]1[cH:19][cH:29][c:10]([S:39](=[O:11])(=[O:12])[CH:21]=[C:31]2[CH:8]=[CH:24][C:37](=[N+:27]([O-:22])[O-:23])[CH:25]=[CH:9]2)[cH:30][cH:20]1>>[cH:1]1[cH:19][cH:29][c:10]([S:39](=[O:11])(=[O:12])[CH:21]([CH:17]2[c:6]3[n+:13]([O-:4])[o:33][n:15][c:38]3[C:26](=[N+:16]([O-:14])[O-:18])[CH:32]=[C:28]2[S:5](=[O:2])(=[O:3])[C:7]([F:34])([F:35])[F:36])[c:31]2[cH:8][cH:24][c:37]([N+:27](=[O:22])[O-:23])[cH:25][cH:9]2)[cH:30][cH:20]1", "epd": [["LP-/Pi+", [22], [27, 22]], ["Pi-/Pi+", [37, 27], [25, 37]], ["Pi-/Pi+", [9, 25], [31, 9]], ["Pi-/Sigma+", [21, 31], [21, 17]], ["Pi-/Pi+", [17, 28], [28, 32]], ["Pi-/Pi+", [32, 26], [26, 16]], ["Pi-/LP+", [16, 18], [18]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[CH:5]1([C:8](=[O:19])[O:28][CH3:12])[CH2:13][CH2:22][CH2:20][N:24]1[C:21]1=[CH:15][CH2:7][CH2:23][CH2:17][CH2:9]1.[O:1]=[S:6](=[O:2])([N:16]=[C:14]=[O:18])[c:26]1[cH:10][cH:3][c:25]([CH3:27])[cH:4][cH:11]1>>[O:1]=[S:6](=[O:2])([N-:16][C:14]([CH:15]1[CH2:7][CH2:23][CH2:17][CH2:9][C:21]1=[N+:24]1[CH:5]([C:8](=[O:19])[O:28][CH3:12])[CH2:13][CH2:22][CH2:20]1)=[O:18])[c:26]1[cH:10][cH:3][c:25]([CH3:27])[cH:4][cH:11]1", "epd": [["LP-/Pi+", [24], [21, 24]], ["Pi-/Sigma+", [15, 21], [15, 14]], ["Pi-/LP+", [14, 16], [16]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:4]([N+:16]12[CH2:21][CH2:32][N+:20]([F:15])([CH2:33][CH2:22]1)[CH2:34][CH2:23]2)[Cl:35].[c:1]1([P:17]([c:2]2[cH:10][cH:27][cH:6][cH:28][cH:11]2)([c:3]2[cH:12][cH:29][cH:7][cH:30][cH:13]2)=[CH:31][C:24]([O:18][CH2:14][CH3:36])=[O:19])[cH:8][cH:25][cH:5][cH:26][cH:9]1>>[CH2:4]([N+:16]12[CH2:21][CH2:32][N:20]([CH2:33][CH2:22]1)[CH2:34][CH2:23]2)[Cl:35].[c:1]1([P+:17]([c:2]2[cH:10][cH:27][cH:6][cH:28][cH:11]2)([c:3]2[cH:12][cH:29][cH:7][cH:30][cH:13]2)[CH:31]([F:15])[C:24]([O:18][CH2:14][CH3:36])=[O:19])[cH:8][cH:25][cH:5][cH:26][cH:9]1", "epd": [["Pi-/Sigma+", [31, 17], [31, 15]], ["Sigma-/LP+", [15, 20], [20]]]}
{"reaction_name": "Michael addition", "rsmi": "[Cl-:1].[S:2]([c:5]1[cH:14][cH:9][cH:7][cH:12][cH:17]1)([C:13]([S:3]([c:6]1[cH:15][cH:10][cH:8][cH:11][cH:16]1)(=[O:18])=[O:19])=[CH2:4])(=[O:20])=[O:21]>>[Cl:1][CH2:4][C-:13]([S:2]([c:5]1[cH:14][cH:9][cH:7][cH:12][cH:17]1)(=[O:20])=[O:21])[S:3]([c:6]1[cH:15][cH:10][cH:8][cH:11][cH:16]1)(=[O:18])=[O:19]", "epd": [["LP-/Sigma+", [1], [1, 4]], ["Pi-/LP+", [4, 13], [13]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[cH:9][cH:2][c:5]2[c:11]([o+:6][c:8](-[c:19]3[cH:15][cH:12][cH:21][cH:13][cH:16]3)[cH:7][cH:18]2)[cH:26]1.[cH:3]1[o:14][c:10]([O:17][Si:4]([CH3:22])([CH3:23])[CH3:24])[cH:20][cH:25]1>>[cH:1]1[cH:9][cH:2][c:5]2[c:11]([cH:26]1)[O:6][C:8]([c:19]1[cH:15][cH:12][cH:21][cH:13][cH:16]1)=[CH:7][CH:18]2[CH:3]1[O+:14]=[C:10]([O:17][Si:4]([CH3:22])([CH3:23])[CH3:24])[CH:20]=[CH:25]1", "epd": [["LP-/Pi+", [14], [10, 14]], ["Pi-/Pi+", [20, 10], [25, 20]], ["Pi-/Sigma+", [3, 25], [3, 18]], ["Pi-/Pi+", [18, 7], [7, 8]], ["Pi-/LP+", [8, 6], [6]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[cH:19][cH:30][c:6]([S:34](=[O:7])(=[O:8])[CH:22]=[C:32]2[CH:4]=[CH:26][C:33](=[N+:29]([O-:24])[O-:25])[CH:27]=[CH:5]2)[cH:31][cH:20]1.[cH:2]1[cH:13][cH:3][c:9]2[c:14]([o+:10][c:12](-[c:23]3[cH:17][cH:15][cH:28][cH:16][cH:18]3)[cH:11][cH:21]2)[cH:35]1>>[cH:1]1[cH:19][cH:30][c:6]([S:34](=[O:7])(=[O:8])[CH:22]([CH:21]2[c:9]3[cH:3][cH:13][cH:2][cH:35][c:14]3[O:10][C:12]([c:23]3[cH:17][cH:15][cH:28][cH:16][cH:18]3)=[CH:11]2)[c:32]2[cH:4][cH:26][c:33]([N+:29](=[O:24])[O-:25])[cH:27][cH:5]2)[cH:31][cH:20]1", "epd": [["LP-/Pi+", [24], [29, 24]], ["Pi-/Pi+", [33, 29], [27, 33]], ["Pi-/Pi+", [5, 27], [32, 5]], ["Pi-/Sigma+", [22, 32], [22, 21]], ["Pi-/Pi+", [21, 11], [11, 12]], ["Pi-/LP+", [12, 10], [10]]]}
{"reaction_name": "Claisen–Schmidt condensation", "rsmi": "[CH:4]([C:16](=[O:5])[c:17]1[cH:14][cH:8][cH:6][cH:9][cH:15]1)([H:18])[H:19].[O:1]=[CH:3][c:2]1[cH:12][cH:10][cH:7][cH:11][cH:13]1>>[O:1]([H:18])[H:19].[c:2]1([CH:3]=[CH:4][C:16](=[O:5])[c:17]2[cH:14][cH:8][cH:6][cH:9][cH:15]2)[cH:12][cH:10][cH:7][cH:11][cH:13]1", "epd": [["Pi-/Sigma+", [1, 3], [1, 18]], ["Sigma-/LP+", [4, 18], [4]], ["LP-/Sigma+", [4], [3, 4]], ["Sigma-/Pi+", [4, 19], [3, 4]], ["Sigma-/LP+", [1, 3], [1]], ["LP-/Sigma+", [1], [1, 19]]]}
